US07423144B2
A solution of 6-chloroadenosine (43 g) and cyclopentylamine (5 eq.) in ethanol (50 eq.) was heated at reflux for 3 hours then cooled to room temperature. The resultant reaction mixture was concentrated in vacuo and the resultant residue was diluted with water (400 ml) and ethyl acetate (400 ml). The eoganic layer was separated and the aqueous layer was extracted into ethyl acetate (2×400 ml). The combined organic layers were washed with water (2×200 ml), dried over sodium sulfate, concentrated in vacuo and dried under vacuum to provide a solid which was suspended in MeOH (400 mL), filtered and dried to provide N6-cyclopentyladenosine (43.8 g).

reactant | 6-chloroadenosine | 43 g | ClC1(C2=NCN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2=NC=N1)N | C10H14ClN5O4
reactant | cyclopentylamine | 5 eq. | C1(CCCC1)N | C5H11N
reactant | ethanol | 50 eq. | C(C)O | C2H6O
solvent | MeOH | 400 mL | CO | CH4O
product | N6-cyclopentyladenosine | 43.8 g | C1(CCCC1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C15H21N5O4
